US09302989B2
5-cyano-N-(4-phenylbutyl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1A, substituting 4-phenylbutyl isocyanate for methyl 4-isocyanatobenzoate and 5-cyanoisoindoline for isoindoline. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.82 (s, 1H), 7.74 (dd, J=7.9, 1.5 Hz, 1H), 7.53 (d, J=7.9 Hz, 1H), 7.24-7.31 (m, 2H), 7.08-7.22 (m, 3H), 6.38 (t, J=5.6 Hz, 1H), 4.59-4.64 (m, 4H), 3.06-3.13 (m, 2H), 2.58 (t, J=7.5 Hz, 2H), 1.53-1.68 (m, 2H), 1.36-1.51 (m, 2H); MS (ESI(+)) m/e 319 (M+H)+.

reactant | methyl 4-isocyanatobenzoate | N(=C=O)C1=CC=C(C(=O)OC)C=C1 | C9H7NO3
reactant | 5-cyanoisoindoline | C(#N)C=1C=C2CNCC2=CC1 | C9H8N2
reactant | isoindoline | C1NCC2=CC=CC=C12 | C8H9N
product | 5-cyano-N-(4-phenylbutyl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(#N)C=1C=C2CN(CC2=CC1)C(=O)NCCCCC1=CC=CC=C1 | C20H21N3O
